US04014883
A solution of 120 g. of 2'-benzoyl-4'-chloro-2-iodo-acetanilide (mp 125°-127°) and 39.0 g. of sodium azide in 3.2 l of methanol was heated to reflux for 15 minutes. The mixture was allowed to cool at room temperature. A methanolic solution of benzyltrimethylammonium hydroxide (35% concentration, 25 ml.) was added while the mixture was still warm. After standing overnight, 70.5 g. (79%) of 3-azido-6-chloro-4-phenylcarbostyril, as yellow needles, were collected and washed with methanol, melting point was indefinite because of decomposition in the range of 120°-150°, forming high-melting indoloquinoline. An analytical sample was obtained by recrystallization from methanol.

reactant | 2'-benzoyl-4'-chloro-2-iodo-acetanilide | C(C1=CC=CC=C1)(=O)C1=C(NC(CI)=O)C=CC(=C1)Cl | C15H11ClINO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | benzyltrimethylammonium hydroxide | 25 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methanol | 3.2 l | CO | CH4O
product | indoloquinoline | N1=CC=CC2=CC=C3C(=C12)C=1C=CC=CC1N3 | C15H10N2
